US06384281B1
To a solution of (1S,2R,3S,4R)-3-(1-benzothien-5-yl)-N,N-dimethylbicyclo[2,2,1]heptane-2-carboxamide (30 mg, 0.1 mmol) in acetic acid (2 mL) was added bromine (5.5 μL, 0.1 mmol) and the mixture was stirred at room temperature for 16 hours. The mixture was diluted with methylene chloride (5 mL) and neutralised by careful addition of a saturated hydrogen carbonate solution. The layers were separated and the aqueous was extracted with methylene chloride (2×5 mL). The organic extracts were washed with water, dried over magnesium sulfate and evaporated in vacuo to give (1S,2R,3S,4R)-3-(3-bromo-1-benzothien-5-yl)-N,N-dimethylbicyclo[2,2,1]heptane-2-carboxamide as a glass (37 mg, 97%). M/e 378/380 (MH+).

reactant | (1S,2R,3S,4R)-3-(1-benzothien-5-yl)-N,N-dimethylbicyclo[2,2,1]heptane-2-carboxamide | 0.1 mmol, 30 mg | S1C=CC2=C1C=CC(=C2)[C@@H]2[C@@H]([C@H]1CC[C@@H]2C1)C(=O)N(C)C | C18H21NOS
reactant | bromine | 0.1 mmol, 5.5 μL | BrBr | Br2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | hydrogen carbonate | C(O)([O-])=O
product | (1S,2R,3S,4R)-3-(3-bromo-1-benzothien-5-yl)-N,N-dimethylbicyclo[2,2,1]heptane-2-carboxamide | 37 mg, 97% | BrC1=CSC2=C1C=C(C=C2)[C@@H]2[C@@H]([C@H]1CC[C@@H]2C1)C(=O)N(C)C | C18H20BrNOS
